* /Users/anshumanmishra/Desktop/Band_Reject.asc
XU1 N005 N001 N003 N007 Output LM741/NS
V1 N003 0 15
V2 N007 0 -15
R2 N001 0 1000
R5 N006 Output 500
C1 N006 N004 318n
C2 N005 N006 318n
R3 N002 N004 1000
R4 N005 N002 1000
C3 0 N002 636n
V3 N004 0 AC 1 0
R1 N001 Output 1000
.include /Users/anshumanmishra/Desktop/LM741.MOD
.ac dec 10 10 1k
.backanno
.end
